US05484689
Phenylglyoxal monohydrate (304 mg, 2 mM) and o-xylene (0.49 ml, 4 mM) were dissolved in dichloroethane (4 ml), titanium tetrachloride (0.33 ml, 3 mM) was added, and reacted at room temperature for 20 minutes. Using the same procedure as in Example 1, 3',4'-dimethylbenzoin was obtained as crystal (258.7 mg, 54.0% yield).

reactant | Phenylglyoxal monohydrate | 2 mM, 304 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | o-xylene | 4 mM, 0.49 ml | CC=1C=CC=CC1C | C8H10
solvent | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 3 mM, 0.33 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 3',4'-dimethylbenzoin | CC=1C=C(C(C(C2=CC=CC=C2)=O)O)C=CC1C | C16H16O2
